US07674822B2
1-Carboxymethoxy-6-cyclohexylcarbamoyl-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid
Following General Procedure A, 6-cyclohexylcarbamoyl-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester (9 mg, 0.02 mmol) was stirred in THF (1 ml) and water (1 ml) for 24 hr. Work-up yielded 6 mg (75%) of title compounds as light yellow solids.

reactant | 6-cyclohexylcarbamoyl-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 0.02 mmol, 9 mg | COC(=O)C1=C(C2=C(C=3C=CC(=CC3S2)C(NC2CCCCC2)=O)S1)OCC(=O)OCC | C23H25NO6S2
reactant | water | 1 ml | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 1-Carboxymethoxy-6-cyclohexylcarbamoyl-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid | 6 mg, 75% | C(=O)(O)COC1=C(SC2=C1SC=1C=C(C=CC21)C(NC2CCCCC2)=O)C(=O)O | C20H19NO6S2
